US07429579B2
b) 7-(5-Methyl-isoxazol-3-yl)-1,2,4,5-tetrahydro-benzo[d] azepine-3-carboxylic acid tert-butyl ester
7-(1-Hydroxyimino-ethyl)-1,2,4,5-tetrahydro-benzo[d]azepine-3-carboxylic acid tert-butyl ester (2.89 g, 9.5 mmol) was cooled to 0° C. in tetrahydrofuran (70 ml) under argon. Butyllithium (7.6 ml, 2.5M in hexane, 19 mmol) was added dropwise to give an orange solution which was stirred for 1 h. N-Methyl-N-methoxy acetamide (824 mg, 8 mmol) was added dropwise in tetrahydrofuran (30 ml) over 3 min. The mixture was stirred for 1 h and then poured into water (27 ml) and concentrated sulphuric acid (3 ml). The resulting mixture was heated to reflux for 1 h and then cooled and neutralised with solid sodium bicarbonate. The mixture was partitioned between dichloromethane (200 ml) and water (100 ml) and the layers separated. The aqueous portion was extracted with dichloromethane (2×100 ml) and the combined organic extracts were evaporated. The residue was treated with dichloromethane (50 ml) and di-tert-butyl dicarbonate (2.18 g, 10 mmol) and the mixture stirred for 20 min, washed with water (50 ml) and evaporated. The residue was treated with pyridine (10 ml) and hydroxylamine hydrochloride (0.77 g, 11 mmol) and the mixture stirred for 1 h. The solvent was evaporated and the residue dissolved in dichloromethane (50 ml) which was washed with dilute hydrochloric acid (3×50 ml, 0.5M). The solvent was evaporated and the residue was purified by silica gel chromatography (eluent dichloromethane) which gave the title compound as a colourless solid (447 mg, 61%).

reactant | 7-(1-Hydroxyimino-ethyl)-1,2,4,5-tetrahydro-benzo[d]azepine-3-carboxylic acid tert-butyl ester | 9.5 mmol, 2.89 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=C(C=C2)C(C)=NO | C17H24N2O3
reactant | Butyllithium | 19 mmol, 2.5M, 7.6 ml | C(CCC)[Li]
reactant | N-Methyl-N-methoxy acetamide | 8 mmol, 824 mg | CN(C(C)=O)OC | C4H9NO2
reactant | sulphuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | di-tert-butyl dicarbonate | 10 mmol, 2.18 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydroxylamine hydrochloride | 11 mmol, 0.77 g | Cl.NO
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | water | 27 ml | O | H2O
product | 7-(5-Methyl-isoxazol-3-yl)-1,2,4,5-tetrahydro-benzo[d] azepine-3-carboxylic acid tert-butyl ester | 447 mg, 61% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=C(C=C2)C2=NOC(=C2)C | C19H24N2O3
